US07432258B2
a) Ethyl N-(cyanomethyl)-N-(3,4-dichlorophenyl)glycinate
Ethyl N-(3,4-dichlorophenyl)glycinate (4.0 g, 16.1 mmol), diisopropylethylamine (3.37 mL, 19.3 mmol), bromoacetonitrile (1.23 mL, 17.7 mmol) and sodium iodide (2.41 g, 16.1 mmol) were dissolved in 25 mL of dry NMP and heated to 120° C. After 20 h, HPLC (Eclipse XDB-C18, 4.6×250 mm, 5 micron, 1-99% CH3CN/H2O with 0.1% trifluoroacetic acid) showed that approximately half of the starting material (Rt=7.8 min) was consumed and that a new peak had formed (Rt=7.6 min). The reaction was monitored periodically by HPLC and additional bromoacetonitrile was added as needed to achieve complete conversion. In this case, an additional 1.5 equivalents (1.68 mL, 24.1 mmol) of bromoacetonitrile was added and the reaction was heated for an additional 28 h, after which time the HPLC indicated that the reaction was complete. The reaction mixture was poured into 400 mL of 50% saturated ammonium chloride and extracted with 500 mL of ethyl acetate. The layers were separated and the organic layer was washed with 50% saturated sodium bicarbonate (400 mL), water (400 mL), and saturated NaCl (400 mL). The organic extracts were dried over magnesium sulfate, filtered, and concentrated to a black oil which was adsorbed onto approximately 15 g of silica gel. The crude residue was purified by column chromatography (300 g silica gel 40 um, gradient elution from 30-70-100% EtOAc/hexanes over 40 minutes) to give the title compound as a yellow solid (2.59 g, 9.02 mmol, 56%). LC/MS (APCI) m/e 260 [M−CN]+.

reactant | Ethyl N-(3,4-dichlorophenyl)glycinate | 16.1 mmol, 4.0 g | ClC=1C=C(C=CC1Cl)NCC(=O)OCC | C10H11Cl2NO2
reactant | diisopropylethylamine | 19.3 mmol, 3.37 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromoacetonitrile | 17.7 mmol, 1.23 mL | BrCC#N | C2H2BrN
reactant | sodium iodide | 16.1 mmol, 2.41 g | [I-].[Na+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | bromoacetonitrile | 24.1 mmol, 1.68 mL, 1.5 equivalents | BrCC#N | C2H2BrN
reactant | ammonium chloride | 400 mL | [Cl-].[NH4+]
solvent | NMP | 25 mL | CN1CCCC1=O | C5H9NO
solvent | CH3CN H2O | CC#N.O
product | Ethyl N-(cyanomethyl)-N-(3,4-dichlorophenyl)glycinate | 9.02 mmol, 2.59 g, 56% | C(#N)CN(CC(=O)OCC)C1=CC(=C(C=C1)Cl)Cl | C12H12Cl2N2O2
